US07868036B2
a) 2-Methyl-2-(1-methyl-1H-imidazol-4-yl)-propionic acid ethyl ester
A solution of 1.82 g of 2-(1H-imidazol-4-yl)-2-methyl-propionic acid ethyl ester [CAS 21149-99-5] in 20 ml of dry N,N-dimethylformamide is treated with 0.480 g sodium hydride (60% dispersion). The mixture is stirred for 30 minutes at 60° C. 0.81 ml of methyl iodide are added and the mixture stirred for 4 hours at 60° C. The reaction mixture is poured onto saturated aqueous sodium hydrogencarbonate solution and extracted with tert-butyl methyl ether (3×). The combined extracts are washed with brine, dried over sodium sulphate and concentrated by evaporation. Flash chromatography (SiO2 60F) of the residue provides the title compound which is identified on the basis of its Rf-value.

reactant | 2-(1H-imidazol-4-yl)-2-methyl-propionic acid ethyl ester | 1.82 g | C(C)OC(C(C)(C)C=1N=CNC1)=O | C9H14N2O2
reactant | sodium hydride | 0.480 g | [H-].[Na+]
reactant | methyl iodide | 0.81 ml | CI | CH3I
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-2-(1-methyl-1H-imidazol-4-yl)-propionic acid ethyl ester | C(C)OC(C(C)(C=1N=CN(C1)C)C)=O | C10H16N2O2
